US04863503
To a suspension of (methoxymethyl)triphenylphosphonium chloride and sodamide (0.4 g of a 1:1 molar mixture) in dry THF was added a solution of methyl 2-(3-benzyl-2- thienyl)-2-oxoacetate (220 mg, 0.8 mmol) in dry THF (5 ml). The reaction mixture was stirred at room temperature for 30 minutes. More (methoxymethyl)triphenylphosphonium chloride and sodamide (0.2 g of a 1:1 molar mixture) were added and stirring was continued for a further one hour. The reaction mixture was poured into water and then extracted with ether. The combined ether layers were washed with water and brine and then dried. Filtration through a pad of silica gel to remove triphenylphosphine oxide, followed by HPLC (eluent dichloromethane) afforded (Z)-methyl 2-(3-benzyl-2-thienyl)-3-methoxypropenoate, an oil (100 mg), 1H nmr:delta 3.64 (3H, s), 3.78 (6H,s), 6.75 (1H,d), 7.0-7.4 (6H,m), 7.60 (1H,s) ppm; and (E)-methyl 2-(3-benzyl-2-thienyl)-3-methoxypropenoate, an oil (30 mg), 1H nmr:delta 3.64 (3H,s), 3.80 (3H,s), 3.82 (3H,s), 6.56 (1H,s), 6.75 (1H,d), 7.0-7.3 (6H,m) ppm.

reactant | (methoxymethyl)triphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodamide | [NH2-].[Na+]
reactant | methyl 2-(3-benzyl-2- thienyl)-2-oxoacetate | 0.8 mmol, 220 mg | C(C1=CC=CC=C1)C1=C(SC=C1)C(C(=O)OC)=O | C14H12O3S
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (Z)-methyl 2-(3-benzyl-2-thienyl)-3-methoxypropenoate | C(C1=CC=CC=C1)C1=C(SC=C1)\C(\C(=O)OC)=C/OC | C16H16O3S
